US07507734B2
d) 2-(3-Methoxy-6-pyridin-4-yl-pyridazin-4-yl)-3-phenyl-1H-indole
Argon is passed for 30 min through a suspension of 270 mg 3-Iodo-2-(3-methoxy-6-pyridin-4-yl-pyridazin-4-yl)-1H-indole TFA salt, 73 mg phenylboronic acid, 220 mg potassium carbonate and 52.4 mg triphenylphosphine in 2 ml DME and 1 ml water. 11.2 mg palladium (II) acetate is added and the mixture stirred under reflux for 5h. The product is isolated by extraction with ethyl acetate and purified by chromatography on silica gel.

reactant | 3-Iodo-2-(3-methoxy-6-pyridin-4-yl-pyridazin-4-yl)-1H-indole TFA salt | 270 mg | OC(=O)C(F)(F)F.IC1=C(NC2=CC=CC=C12)C1=C(N=NC(=C1)C1=CC=NC=C1)OC
reactant | phenylboronic acid | 73 mg | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | potassium carbonate | 220 mg | C([O-])([O-])=O.[K+].[K+]
reactant | triphenylphosphine | 52.4 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | DME | 2 ml | COCCOC | C4H10O2
solvent | water | 1 ml | O | H2O
catalyst | palladium (II) acetate | 11.2 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-(3-Methoxy-6-pyridin-4-yl-pyridazin-4-yl)-3-phenyl-1H-indole | COC=1N=NC(=CC1C=1NC2=CC=CC=C2C1C1=CC=CC=C1)C1=CC=NC=C1 | C24H18N4O
